US06673809B2
N-[4-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4.3-c]quinolin-5-yl)-cyclopent-2-enyl]2-oxo-2-(3,4,5-trimethoxy-phenyl)-acetamide
To a stirred solution of 5-(4-amino-cyclopent-2-enyl)-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one (50 mg, 0.216 mmol) in CH2Cl2 (2 mL) was added oxo-(3,4,5-trimethoxy-phenyl)acetyl chloride (80 mg, 0.33 mmol, prepared from its acid and oxalyl chloride) and DMAP (catalytic amount) and stirred at r.t. for 18 hours. The mixture was diluted with CH2Cl2, washed (brine), dried (Na2SO4), filtered and concentrated. Column chromatography (silica gel, hexanes/ethyl acetate, gradient) gave the title compound (33 mg, 38%). Mass Spectrum (FIA) (m/z) 538A 4 (A+1). 1H NMR (CDCl3): δ 7.80 (d, 1H); 7.50 (t, 1H); 7.35 (d, 1H); 6.00 (m, 2H); 5.40 (m, 1H); 5.21 (m, 111); 3.80-3.90 (m, 1H); 2.95 (s, 3H); 2.30 (m, 1H).

reactant | 5-(4-amino-cyclopent-2-enyl)-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one | 0.216 mmol, 50 mg | NC1C=CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C16H14ClN3O2
reactant | oxo-(3,4,5-trimethoxy-phenyl)acetyl chloride | 0.33 mmol, 80 mg | O=C(C(=O)Cl)C1=CC(=C(C(=C1)OC)OC)OC | C11H11ClO5
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-[4-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4.3-c]quinolin-5-yl)-cyclopent-2-enyl]2-oxo-2-(3,4,5-trimethoxy-phenyl)-acetamide | 33 mg, 38% | ClC=1C=2C=3C(C(N(C2C=CC1)C1C=CC(C1)NC(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)=O)=O)=C(ON3)C | C27H24ClN3O7
